US08048899B2
Synthesis of 1-Methoxymethyl-cyclopentanecarboxylic acid ethyl ester
60% Sodium hydride in mineral oil (6.2 g, 130.8 mmol) is added to a solution of 1-hydroxymethyl-cyclopentanecarboxylic acid ethyl ester (15.0 g, 87.2 mmol) in 100.0 mL of THF at 0° C., followed by the addition of iodomethane (13.6 g, 95.9 mmol) and the reaction mixture is stirred at room temperature for 14 hours. After this time, the reaction mixture is quenched with ice water and then extracted with ethyl acetate twice. The organics are combined and washed with water twice then brine, dried over Na2SO4, filtered and concentrated under reduced pressure to afford the crude product that is purified by silica gel chromatography to afford 12.0 g of the title compound. Yield: 74%; m/z 209 [M+Na].

reactant | Sodium hydride | [H-].[Na+]
reactant | 1-hydroxymethyl-cyclopentanecarboxylic acid ethyl ester | 87.2 mmol, 15.0 g | C(C)OC(=O)C1(CCCC1)CO | C9H16O3
reactant | iodomethane | 95.9 mmol, 13.6 g | IC | CH3I
solvent | THF | 100.0 mL | C1CCOC1 | C4H8O
product | 1-Methoxymethyl-cyclopentanecarboxylic acid ethyl ester | 12.0 g, Yield: 74% | C(C)OC(=O)C1(CCCC1)COC | C10H18O3
